US04831151
A solution of 1.15 g (3.7 mmol) of 1-amino-2-ethyl-3-[(α-methyl-p-nitrobenzylidene)amino]-imidazolium chloride and 0.55 g (3.7 mmol) of p-dimethylaminobenzaldehyde in 25 ml of glacial acetic acid is stirred for 18 hours. The product is crystallized out by the addition of ether. The product is recrystallized from ethanol/ether. There is obtained 3-[[p-(dimethylamino)-benzylidene]amino]-2-ethyl-1-[(α-methyl-p-nitrobenzylidene)amino]-imidazolium chloride of melting point 233°.

reactant | 1-amino-2-ethyl-3-[(α-methyl-p-nitrobenzylidene)amino]-imidazolium chloride | 3.7 mmol, 1.15 g | [Cl-].N[N+]1=C(N(C=C1)N=C(C1=CC=C(C=C1)[N+](=O)[O-])C)CC
reactant | p-dimethylaminobenzaldehyde | 3.7 mmol, 0.55 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 3-[[p-(dimethylamino)-benzylidene]amino]-2-ethyl-1-[(α-methyl-p-nitrobenzylidene)amino]-imidazolium chloride | [Cl-].CN(C1=CC=C(C=NN2C(=[N+](C=C2)N=C(C2=CC=C(C=C2)[N+](=O)[O-])C)CC)C=C1)C | InChI=1S/C22H25N6O2.ClH/c1-5-22-26(23-16-18-6-10-20(11-7-18)25(3)4)14-15-27(22)24-17(2)19-8-12-21(13-9-19)28(29)30;/h6-16H,5H2,1-4H3;1H/q+1;/p-1
